US04803280
[[5-[4-(1,1-Dimethylethyl)phenyl]-1,2,3-thiadiazol-4-yl]thio]acetic acid ethyl ester
A solution of 2.9 g of 5-[4-(1,1-dimethylethyl)phenyl]-1,2,3-thiadiazole-4-thiol, potassium salt in 50 ml of ethanol was stirred overnight with 1.67 g of ethyl bromoacetate, then concentrated in vacuo. The residue was taken up in ether, filtered and evaporated in vacuo. The oily residue was dissolved in dichloromethane and purified as described in Example 50, giving an oil which was crystallized from methylcyclohexane, giving 2.8 g of the desired compound as white needles, mp 62.5°-63.5° C. Proton nuclear magnetic resonance (δ[ppm], CDCl3) 90 MHz: 1.21 (t, 3H, J=7.0 Hz, CH3); 1.37 (s, 9H, t-butyl); 4.11 (s, 2H, SCH2); 4.15 (q, 2H, CH2O); 7.55 (s, 4H, C6H4). Infrared absorption spectrum (KBr pellet): 1739(s); 1606(w); 1520(w); 1480(w); 1445(w); 1385(w); 1365(w); 1305(s); 1175(s); 1040(w); 935(s); 840(s).

reactant | 5-[4-(1,1-dimethylethyl)phenyl]-1,2,3-thiadiazole-4-thiol | 2.9 g | CC(C)(C)C1=CC=C(C=C1)C1=C(N=NS1)S | C12H14N2S2
reactant | potassium | [K] | K
reactant | ethyl bromoacetate | 1.67 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [[5-[4-(1,1-Dimethylethyl)phenyl]-1,2,3-thiadiazol-4-yl]thio]acetic acid ethyl ester | 2.8 g | C(C)OC(CSC=1N=NSC1C1=CC=C(C=C1)C(C)(C)C)=O | C16H20N2O2S2
